US09233979B2
To a microwave vial equipped with a stir bar was added 1-(4-fluorophenyl)-2-methoxyethanamine (1.2 g, 7.09 mmol) and water (10 mL). To this mixture was added HCl (1N, 7.23 mL, 7.23 mmol) and potassium cyanate (2.88 g, 35.5 mmol). The mixture was heated in a microwave reactor to 80° C. for 1 h. Saturated sodium bicarbonate was added and the products extracted into EtOAc (×4). The organic layers were combined, washed with brine (×2), and dried over MgSO4. The material was concentrated in vacuo while loading onto silica gel. Purification by flash chromatography (0-10% EtOAc-Hexanes) gave 1-(1-(4-fluorophenyl)-2-methoxyethyl)urea. MS ESI calc'd. for C10H13FN2O2 [M+1]+ 213. found 213.

reactant | 1-(4-fluorophenyl)-2-methoxyethanamine | 7.09 mmol, 1.2 g | FC1=CC=C(C=C1)C(COC)N | C9H12FNO
reactant | HCl | 7.23 mmol, 1N, 7.23 mL | Cl | ClH
reactant | potassium cyanate | 35.5 mmol, 2.88 g | [O-]C#N.[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 mL | O | H2O
product | 1-(1-(4-fluorophenyl)-2-methoxyethyl)urea | FC1=CC=C(C=C1)C(COC)NC(=O)N | C10H13FN2O2
